US08754073B2
4.4 (R)-1-amino-1-(4-fluorophenyl)-2-methylpropan-2-ol
5.6 g 2,2,2-trifluoro-N-[(R)-1-(4-fluorophenyl)-2-hydroxy-2-methylpropyl]-acetamide and 2.27 g KOH are suspended in 60 ml of methanol. The reaction mixture is stirred for 20 hours at 60° C., then mixed with water and the product is extracted with dichloromethane. 3.2 g product are obtained as an oil. Analytical HPLC-MS (method A): RT=0.79 min.

reactant | 2,2,2-trifluoro-N-[(R)-1-(4-fluorophenyl)-2-hydroxy-2-methylpropyl]-acetamide | 5.6 g | FC(C(=O)N[C@@H](C(C)(C)O)C1=CC=C(C=C1)F)(F)F | C12H13F4NO2
reactant | KOH | 2.27 g | [OH-].[K+]
reactant | water | O | H2O
solvent | methanol | 60 ml | CO | CH4O
product | (R)-1-amino-1-(4-fluorophenyl)-2-methylpropan-2-ol | 3.2 g | N[C@@H](C(C)(O)C)C1=CC=C(C=C1)F | C10H14FNO
